US04576942
1-Oxo-pyrido[2,1-C][1.4]benzothiazine-3,4-dicarboxylic acid
A mixture of 12 g of 3-carbomethoxy-4-carbethoxy-1-oxo-pyrido[2,1-C][1,4]benzothiazine in 270 ml 0.5N NaOH and 60 ml ethanol was stirred at 60° C. for 2 hrs. It was then acidified with 1N HCl, filtered, the precipitate washed with water and dried to give 8.5 g crude solid which was purified by dissolving in IN NaOH, and crystallizing out by addition of IN HCl. It was then filtered, washed with water and ether to give 7.8 g product, m.p. 222° C. (decomposition).

reactant | 3-carbomethoxy-4-carbethoxy-1-oxo-pyrido[2,1-C][1,4]benzothiazine | 12 g | C(=O)(OC)C1=C(C2=C(N3C(=CS2)C=CC=C3)C(C1)=O)C(=O)OCC | C17H15NO5S
reactant | HCl | 1N | Cl | ClH
solvent | NaOH | 0.5N, 270 ml | [OH-].[Na+]
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 1-Oxo-pyrido[2,1-C][1.4]benzothiazine-3,4-dicarboxylic acid | 7.8 g | O=C1CC(=C(C2=C1N1C(=CS2)C=CC=C1)C(=O)O)C(=O)O | C14H9NO5S
